US07659394B2
(S)-2-(2-Ethoxy-phenoxymethyl)-morpholine was synthesized from (S)-2-Hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester and 2-ethoxyphenol according to the following procedure:

reactant | (S)-2-Hydroxymethyl-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CO | C10H19NO4
reactant | 2-ethoxyphenol | C(C)OC1=C(C=CC=C1)O | C8H10O2
product | (S)-2-(2-Ethoxy-phenoxymethyl)-morpholine | C(C)OC1=C(OC[C@@H]2CNCCO2)C=CC=C1 | C13H19NO3
